US09107916B2
A. (4-chloro-2-propan-2-yloxyphenyl)methanol
The title compound was prepared from 5-chloro-2-(hydroxymethyl)phenol (PREPARATION 7) and isopropylbromide according to the procedure for the preparation of Example 111, part A. 1H NMR (400 MHz, CDCl3): δ 1.36 (6H, d, J=6.4 Hz), 2.40 (1H, s), 4.55-4.59 (1H, m), 4.61 (2H, s), 6.86 (1H, d, J=2.0 Hz), 6.89 (1H, dd, J=1.6 Hz, 7.6 Hz), 7.18 (1H, d, J=7.6 Hz).

reactant | 5-chloro-2-(hydroxymethyl)phenol | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | isopropylbromide | C(C)(C)Br | C3H7Br
product | (4-chloro-2-propan-2-yloxyphenyl)methanol | ClC1=CC(=C(C=C1)CO)OC(C)C | C10H13ClO2
